US07220862B2
(R)-2-Benzyloxycarbonylamino-3-(5-bromo-2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester
A mixture of (R)-2-benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester (1.07 g, 2.89 mmol), N-bromosuccinimide (643 mg, 3.61 mmol), and acetic acid (150 mL) was heated at 105° C. for 14 h. After cooling to room temperature, the solvents were removed in vacuo. The residue was subjected to silica gel chromatography using ethyl acetate/hexanes (2:3), then (1:1) as eluent to afford the title compound (446 mg, 34%). The structure of the title compound was confirmed by 2D NMR. 1H-NMR (CD3COCD3, 500 MHz) δ 10.46 (s, 1H), 7.36–7.28 (m, 7H), 6.82 (d, J=8.5 Hz, 1H), 5.05 (d, J=12.5 Hz, 1H), 5.00 (d, J=12.5 Hz, 1H), 4.67–4.62 (m, 1H), 3.73 (s, 3H), 3.43 (dd, J=14.0, 5.0 Hz, 1H), 3.10 (dd, J=14.0, 10.5 Hz, 1H); 13C-NMR (CD3COCD3, 125 MHz) δ 172.2, 156.4, 154.2, 143.7, 137.6, 131.1, 130.6, 128.7, 128.2, 128.0, 118.2, 113.9, 112.9, 66.2, 54.3, 52.1, 38.3; Mass spec. 448.03 (MH+).

reactant | (R)-2-benzyloxycarbonylamino-3-(2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | 2.89 mmol, 1.07 g | COC([C@@H](CC1=CC2=C(NC(O2)=O)C=C1)NC(=O)OCC1=CC=CC=C1)=O | C19H18N2O6
reactant | N-bromosuccinimide | 3.61 mmol, 643 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | (R)-2-Benzyloxycarbonylamino-3-(5-bromo-2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | 446 mg, 34% | COC([C@@H](CC1=CC2=C(NC(O2)=O)C=C1Br)NC(=O)OCC1=CC=CC=C1)=O | C19H17BrN2O6
